US07704996B2
To a solution of (4-phenylpiperidin-4-ylmethyl) carbamic acid tert-butyl ester (2.1 mmol) in CH2Cl2 is added acetic anhydride (3.1 mmol) and triethylamine (3.1 mmol) at 0° C. The reaction mixture is stirred at room temperature for 2.5 h then the bulk of solvent is concentrated in vacuo. After the residue is suspended in AcOEt, the mixture is washed with water and brine, dried over MgSO4, filtered, and concentrated in vacuo to give (1-acetyl-4-phenylpiperidin-4-ylmethyl)carbamic acid tert-butyl ester, which is directly used for the next reaction without further purification.

reactant | (4-phenylpiperidin-4-ylmethyl) carbamic acid tert-butyl ester | 2.1 mmol | C(C)(C)(C)OC(NCC1(CCNCC1)C1=CC=CC=C1)=O | C17H26N2O2
reactant | acetic anhydride | 3.1 mmol | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 3.1 mmol | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (1-acetyl-4-phenylpiperidin-4-ylmethyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1(CCN(CC1)C(C)=O)C1=CC=CC=C1)=O | C19H28N2O3
